US05767285
2-Acetylphenol (1 g, 7.34 mmol) is treated with 1.79 g (9.18 mmol) of ethyl 4-bromobutyrate, 3.55 g (25.71 mmol) of potassium carbonate and a catalytic amount (11 mg, 0.07 mmol) of sodium iodide as described in Preparation 3 to give 1.84 g of (2-acetylphenoxy)butyric acid, ethyl ester as a light yellow oil which solidified upon standing: m.p. 43°-45° C.; The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (neat) 1730, 1660, 1600 cm-1 ; MS (CI) m/e 251 (M+H), 232, 205.

reactant | 2-Acetylphenol | 7.34 mmol, 1 g | C(C)(=O)C1=C(C=CC=C1)O | C8H8O2
reactant | ethyl 4-bromobutyrate | 9.18 mmol, 1.79 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 25.71 mmol, 3.55 g | C([O-])([O-])=O.[K+].[K+]
catalyst | sodium iodide | 0.07 mmol, 11 mg | [I-].[Na+]
product | (2-acetylphenoxy)butyric acid, ethyl ester | 1.84 g | C(C)(=O)C1=C(OC(C(=O)OCC)CC)C=CC=C1 | C14H18O4
